Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall x 2
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Mr. ___ is an ___ with PMH of CAD s/p ?stent, ascending 
aortic aneurysm, bicuspid aortic valve, mild AS/AI, ___ 
disease who presents with fall x2. Pt recently seen in neurology 
clinic at ___ for "second opinion" regarding his ___ 
disease. At that time, it was thought the patient was having 
progression of sx and his sinemet was uptitrated to 50-200 SR 
overnight in addition to 1.5tabs ___ TID (previously only on 
___ TID 1 tablet). Since this time, patient's wife has 
noticed that pt has been complaining more of "lightheadedness" 
over the past 3 weeks. 
This morning, pt states he was feeling off balance, as if he had 
gotten up with "wrong way." Then as he was shaving in the 
bathroom this morning (in a standing position), he lost his 
balance and fell onto his buttock. He did not hit his head. His 
wife and daughter heard a thud and went to evaluate him. They 
found patient sitting on the ground, with torso partially 
reclined. Did not note any slurred speech, facial droop, focal 
neuro deficit, altered mental status, jerking movements, 
bowel/bladder incontinence. Pt denies LOC, remembers the entire 
event. He says he did not have any prodromal symptoms of nausea, 
or changes in vision and reports no precipitating noxious 
exposure. He had been standing for some time shaving at that 
point, so had not recently risen from bed. 
Pt sustained a ?fall two days prior to presentation. He was home 
with daughter and was found to have an abrasion on his head. 
Unclear whether this was a true fall or whether the patient 
bumped his head on a cabinet while attempting to stand up. He 
does not rembmer the exact details of this event, but denies 
LOC. 
Pt has had some low back pain since fall, but denies chest pain, 
SOB, exertional dyspnea, exertional angina, focal 
numbness/weakness. 

Pt's ___ disease was first diagnosed in ___ after found 
to have RUE tremor at ___. He was started on 
sinemet ___, titrated to TID. 
  
In the ED, initial vitals were: T97.5, HR 69, BP 145/69, RR 14, 
O2 98% on RA. Pt found on physical exam to have murmur 
consistent with AS, some spine tenderness to palpation and an 
abrasion to the back of the head. 
- Labs: WBC 6.8, Hgb 10.8, HCT 33.3, Plts 149, Na 139, K 4.8, Cl 
102, HCO3 28, BUN 19, Cr 0.8, Ca 9.1, Hg 2.2, P 3.1, INR 1.1, 
trop < 0.01
- UA: spec gravity 1.011, negative leuks/nit/bacteria/protein 
Pt treated with acetaminophen 1000mg, TdaP and 
carbidopa/levodopa ___ 1.5 tablet

Imaging: 

CXR 
1. Left lower lobe atelectasis.
2. No pneumonia.
3. Mild anterior wedging of mid thoracic vertebral bodies better 
assessed on ___ CT torso.

CT C spine w/o contrast: 
No acute fracture.
Minimal anterolisthesis of C7 on T1 which is likely 
degenerative.

CT Head w/o contrast 
No acute intracranial process.
Chronic cerebellar infarcts and white matter changes likely 
sequela of chronic small vessel disease.

CT abdomen and pelvis w/o contrast 
1. No evidence of intrathoracic or intra abdominal injury.
2. Left renal hypodensity measuring up to 2.9 cm with 
questionable mural calcification. Further evaluation with 
ultrasound may be obtained on nonurgent basis.
3. No acute fractures. Chronic which deformity of T7, T11 and 
L1.
4. Enlarged ascending thoracic aorta up to 4.8 cm.

On transfer HR 83, BP 114/61, RR 18, O2 95% RA  
On the floor, patient reports feeling "fantastic" denies chest 
pain, SOB, palpitations, ___ edema, numbness/weakness. Denies 
pain. 
 
Review of systems:  
(+) Per HPI, all other ROS otherwise negative 
 
Past Medical History:
___ Disease
Bicuspid Aortic Valve
Mild Aortic Stenosis
Mild Aortic Insufficiency 
Sialorrhea s/p botulinum toxin injections
Ascending Aortic Aneurysm  
 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vital Signs: 98.0, RR 18, O2 sat 100% on RA 
- Lying: BP 130/47, 72
- Sitting: 127/55, 72
- Standing: 120/69, 76 
General: Alert, oriented, no acute distress  
HEENT: JVP at 8cm, sclera anicteric, MMM, no carotid bruit b/l 
CV: RRR, nl S1 physiologically split S2, systolic murmur at RUSB 
and LUSB w/o radiation to carotids b/l, soft diastolic murmur at 
RUSB 
Lungs: decreased breath sounds at b/l bases, no adventitious 
sounds   
Abdomen: soft, nontender, nondistend, NABS, no HSM  
GU: No foley  
Ext: WWP, trace edema to mid-calf, (+) mild hyperpigmentation 
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred (+) cogwheel rigidity 
b/l, hypophonia of voice  
Skin: abrasion on scalp, with mild erythema but no purulence, 
fluctuance 

DISCHARGE PHYSICAL EXAM:
Vitals: 98.2, 132/64, 78, 18, 96% on RA  
General: well appearing, NAD  
HEENT: sclera anicteric, MMM 
Neck: JVP not elevated 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: RRR, nl S1 S2, systolic murmurs RUSB to LUSB w/o radiation 
to carotids
Abdomen: soft, NT, ND, NABS 
Ext: WWP, no ___ edema  
Skin: (+) sebhorreic dermatitis  
Neuro: CN ___ grossly intact, moving all extremities 
spontaneously 
 
Pertinent Results:
ADMISSION LABS:
___ 12:50PM BLOOD WBC-6.8 RBC-3.11* Hgb-10.8* Hct-33.3* 
MCV-107* MCH-34.7* MCHC-32.4 RDW-14.3 RDWSD-55.0* Plt ___
___ 12:50PM BLOOD Neuts-71.7* ___ Monos-5.0 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-4.88 AbsLymp-1.52 
AbsMono-0.34 AbsEos-0.03* AbsBaso-0.02
___ 12:50PM BLOOD Glucose-88 UreaN-19 Creat-0.8 Na-139 
K-4.8 Cl-102 HCO3-28 AnGap-14
___ 12:50PM BLOOD cTropnT-<0.01
___ 12:50PM BLOOD Calcium-9.1 Phos-3.1 Mg-2.2
___ 01:00PM BLOOD Lactate-1.6

DISCHARGE LABS:
___ 07:19AM BLOOD WBC-5.0 RBC-3.18* Hgb-11.0* Hct-34.3* 
MCV-108* MCH-34.6* MCHC-32.1 RDW-14.2 RDWSD-56.3* Plt ___
___ 07:19AM BLOOD Plt ___
___ 07:19AM BLOOD Glucose-77 UreaN-18 Creat-0.7 Na-142 
K-4.0 Cl-103 HCO3-30 AnGap-13
___ 07:19AM BLOOD cTropnT-<0.01
___ 07:19AM BLOOD Calcium-8.8 Phos-3.1 Mg-2.1
___ 07:19AM BLOOD TSH-2.3
___ 07:19AM BLOOD VitB12-624

MICROBIOLOGY: N/A

IMAGING:
CXR ___
1. Left lower lobe atelectasis.
2. No pneumonia.
3. Mild anterior wedging of mid thoracic vertebral bodies better 
assessed on ___ CT torso.

CT C spine w/o contrast ___
No acute fracture.
Minimal anterolisthesis of C7 on T1 which is likely 
degenerative.

CT Head w/o contrast ___ 
No acute intracranial process.
Chronic cerebellar infarcts and white matter changes likely 
sequela of chronic small vessel disease.

CT abdomen and pelvis w/o contrast ___
1. No evidence of intrathoracic or intra abdominal injury.
2. Left renal hypodensity measuring up to 2.9 cm with 
questionable mural calcification. Further evaluation with 
ultrasound may be obtained on nonurgent basis.
3. No acute fractures. Chronic which deformity of T7, T11 and 
L1.
4. Enlarged ascending thoracic aorta up to 4.8 cm.
 
Brief Hospital Course:
___ with PMH of PD, bicuspid aortic valve, mild AS/AI, 
ascending aortic aneurysm who presents with syncope and fall x2, 
thought to be secondary to medication side effect.  

# Syncope: The patient presented after sustaining 2 falls in the 
past week prior to admission. Per his family, the patient had 
been reporting "lightheadedness" intermittently since his 
levodopa-carbidopa was increased on ___. The patient first 
fall was unwitnessed and may have just been that he bumped his 
head on a cabinet in his kitchen. The second fall occurred while 
the patient was standing to shave in his bathroom and bent over, 
reaching for something on the counter. He fell onto his buttock 
and back without hitting his and without loss of consciousness. 
His wife reported no slurred speech, facial droop, incontinence 
or altered mental status. Given this history of ongoing 
lightheadedness, with fall precipitated by positional change, 
there was concern for orthostatic hypotension. The patient was 
found to be orthostatic in the ED and again on the floor on the 
second day of admission after receiving his home medications. 
Cardiac etiologies were thought to be less likely cause of 
syncope. Though the patient had a history of aortic stenosis, 
this was noted to be mild per his outside records and he did not 
appear to have severe stenosis by physical exam. The patient was 
monitored on telemetry which was w/o evidence of arrhythmia. 
Troponins were negative x2 and ECG showed no changes. Neurologic 
and neurocardiogenic etiologies were thought to be less likely 
given history. TSH and B12 were within normal limits. The 
patient's outpatient neurologist was contacted, who agreed that 
the most likely cause of the patient's symptoms was increased 
dose of levodopa-carbidopa, as this is a known side effect and 
seemed temporally related. The patient's dose was titrated to 
carbidopa-levodopa 25 mg-100 mg 1 tablet four times per day 
(previously 1.5 tablets 3x/day). The patient was maintained on 
his home levodopa-carbidopa SR qHS. The patient's atenolol and 
isosorbide mononitrate were also stopped. Pt should f/u wit his 
neurologist and his PCP for further titration as needed. 

# Fall: The patient was evaluated with extensive imaging, 
including CT head, CT chest and CT abdomen/pelvis and CT spine 
which showed no acute changes. The patient had a small abrasion 
on his head which showed no evidence of infection. The patient 
was evaluated by physical therapy who felt the patient was safe 
to return home. He will continue his home ___ as outpatient.  

# ___ Disease: In discussion with patient's outpatient 
neurologist, the patient's home regimen was adjusted to 
Carbidopa-Levodopa (___) 1 TAB PO QID and Carbidopa-Levodopa 
CR (50-200) 1 TAB PO QHS. The patient will f/u with outpatient 
neurologist for further management. 

# Ascending aortic aneurysm: The patient has a history of 
ascending aortic aneurysm, visualized on CT Chest and on TTE 
___. Noted on CT chest to be 4.8cm. This is monitored every 6 
months by the patient's outpatient physicians.

# Bicuspid aortic valve, mild AS, AI: The patient is followed by 
a cardiologist as outpatient and gets TTEs every 6 months for 
monitoring. As above, the patient's syncope was thought to be 
related to orthostasis rather than progression of the patient's 
AS. The patient will f/u with outpatient cardiologist and PCP 
for further monitoring.

# CAD s/p stent: The patient was continued on his home 
atorvastatin 10 mg PO QPM. The patient's atenolol 25mg PO daily, 
and isosorbide mononitrate 30 mg PO daily were discontinued as 
above. The patient's home aspirin was decreased to 325mg, as 
81mg was thought to be more effective with less risk of bleeding 
(particularly given the patient's recent falls). The patient 
should f/u with PCP and cardiology for further management. 

# Anemia: The patient's Hgb was ___ on admission with 
macrocytosis, stable from his recent baseline. The patient has 
previously been found to have this macrocytic anemia and B12 
deficiency so was started on B12 supplementation. The patient's 
B12 level was found to be within normal limits, but his 
macrocytosis seems to have persisted. The patient should f/u 
with his PCP for consideration of further work-up of other 
underlying etiologies.  

Transitional Issues: 
- f/u with Dr. ___ further adjustment of sinemet.
- please adjust blood pressure medications as outpatient given 
that the atenolol and isosorbide mononitrate were discontinued 
at time of discharge to prevent orthostasis. 
- f/u with PCP for consideration of using aspirin 81mg PO daily 
instead of aspirin 325mg PO daily given increased risk of 
bleeding 
- Continue q 6 month evaluation of ascending aortic aneurysm and 
valvular disease with cardiologist as outpatient, reportedly 
scheduled for next set of imaging ___ 
- Consider further work up of macrocytic anemia. This appears to 
be a chronic condition, pt H/H found to be at recent baseline. 
He is currently receiving B12 supplementation and levels were 
found to be WNL, but macrocytosis has persisted.
- Please re-assess minimal thrombocytopenia during 
hospitalization. Platelet count of 141. 
- CT Abd/Pelvis ___ showed: Left renal hypodensity measuring up 
to 2.9 cm with questionable mural calcification. Consider 
further evaluation with renal ultrasound as outpatient for 
further characterization
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
5. Alendronate Sodium 70 mg PO Frequency is Unknown 
6. Co Q-10 (coenzyme Q10) 100 mg oral daily 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. saw ___ 450 mg oral daily 
9. Atorvastatin 10 mg PO QPM 
10. Carbidopa-Levodopa (___) 1.5 TAB PO TID 
11. Carbidopa-Levodopa CR (50-200) 1 TAB PO QHS 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*28 Tablet 
Refills:*0
2. Atorvastatin 10 mg PO QPM 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Alendronate Sodium 70 mg PO WEEKLY 
6. Co Q-10 (coenzyme Q10) 100 mg oral daily 
7. saw ___ 450 mg oral daily 
8. Carbidopa-Levodopa (___) 1 TAB PO QID 
RX *carbidopa-levodopa 25 mg-100 mg 1 tablet(s) by mouth four 
times a day Disp #*28 Tablet Refills:*0
9. Carbidopa-Levodopa CR (50-200) 1 TAB PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: syncope, mechanical fall  
Secondary: ___ disease, Bicuspid Aortic Valve, Aortic 
Stenosis, Aortic Insufficiency, Ascending Aortic Aneurysm  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

Thank you for allowing us to participate in your care at ___. 

You were admitted to the hospital because of your 
lightheadedness and because of your falls. We believe this 
occurred because of your ___ Disease and possibly 
because of some of the medications that you have been taking 
caused "orthostatic hypotension" (decreased blood pressure when 
standing for a long period of time or when standing from a 
seated position). 

We evaluated you with blood tests which were normal as well as 
an ECG and an ultrasound of your heart which showed no changes. 
Your ___ medication was adjusted as noted below. Please 
discuss with your Neurologist these new medication adjustments. 
You have an appointment on ___. 

Your blood pressure medications including your atenolol and 
isosorbide mononitrate were held as this was likely contributing 
to your symptoms. Please call your Cardiologist to discuss 
whether you should be off of these medications completely. 

Your aspirin was adjusted from 325 mg daily to 81 mg daily. 
Please discuss with your Cardiologist this medication 
adjustment. 

After discharge you should f/u with your neurologist for further 
evaluation and management. You should continue to have your 
regular screening tests for monitoring of your aortic valve 
disease and the dilation of your aorta with an echocardiogram 
(ultrasound of your heart).

To prevent further falls, please arise from a seated position 
slowly. When attempting to get out of bed, please sit at the 
edge of the bed until your lightheadedness resolves.

Also a CT of your abdomen and pelvis showed a Left renal 
hypodensity measuring up to 2.9 cm with questionable mural 
calcification. Please follow up with your primary care physician 
to have this followed up with a renal ultrasound. 

We wish you the best! 
Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___